US05681380
A 250-ml round-bottomed flask fitted with a condenser was charged with 12.0 g of 1-hydroxycyclohexyl 4-(2-carboxyethyl)carbonylphenyl ketone (0.04 mole), 5.95 g (0.05 mole) of thionyl chloride (Aldrich Chemical Co., Milwaukee, Wis.), and 50 ml of diethyl ether. The resulting reaction mixture was stirred at 30° C. for 30 minutes, after which time the solvent was removed under reduced pressure. The residue, a white solid, was maintained at 0.01 Torr for 30 minutes to remove residual solvent and excess thionyl chloride, leaving 12.1 g (94 percent) of 1-hydroxycyclohexyl 4-(2-chloroformylethyl)carbonylphenyl ketone.

reactant | 1-hydroxycyclohexyl 4-(2-carboxyethyl)carbonylphenyl ketone | 0.04 mole, 12.0 g | C(=O)(O)CCC(=O)C1=CC=C(C=C1)C(=O)C1(CCCCC1)O | C17H20O5
reactant | thionyl chloride | 0.05 mole, 5.95 g | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-hydroxycyclohexyl 4-(2-chloroformylethyl)carbonylphenyl ketone | 12.1 g, 94 percent | ClC(=O)CCC(=O)C1=CC=C(C=C1)C(=O)C1(CCCCC1)O | C17H19ClO4
